* Extracted by KLayout with GF180MCU LVS runset on : 22/06/2026 03:42

.SUBCKT inv1 VDD VO VI VSS
M$1 VDD VI VO VDD pfet_03v3 L=0.28U W=2U AS=1.3P AD=1.3P PS=5.3U PD=5.3U
M$2 VSS VI VO VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
.ENDS inv1
